US09029545B2
2-Bromo-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridin-4-amine
To a stirred solution of ethyl 4-amino-2-bromo-6-methyl-3-(3-methyl phenyl)thieno[2,3-b]pyridine-5-carboxylate (Description 58) (900 mg, 2.221 mmol) in ethanol (20 mL) at RT was added aqueous NaOH (5M) (1.0 mL, 5.0 mmol). The reaction mixture was heated to 90° C. for ca. 2 h. After cooling to RT the solvent was removed in vacuo. The residue was re-dissolved in water (ca. 80 mL) and neutralized to ca. pH 7 using aqueous HCl (5M). The solution was then extracted with 20% MeOH in DCM (ca. 50 mL×2). The combined organic layer was passed through a phase separator and the solvent removed in vacuo to give a residue which was subsequently re-dissolved in diphenyl ether (10 mL, 62.9 mmol) and heated to 200° C. for ca. 3 h. The reaction mixture was cooled to RT, passed through an SCX cartridge (eluting with MeOH/2M NH3 MeOH). The basic fractions were combined and the solvent removed in vacuo, to give the title compound (487 mg). LCMS (A) m/z: 333/335 [M+1]+, Rt 0.86 min (acidic).

reactant | ethyl 4-amino-2-bromo-6-methyl-3-(3-methyl phenyl)thieno[2,3-b]pyridine-5-carboxylate | 2.221 mmol, 900 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)C)Br | C18H17BrN2O2S
reactant | NaOH | 5.0 mmol, 5M, 1.0 mL | [OH-].[Na+]
reactant | diphenyl ether | 62.9 mmol, 10 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Bromo-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridin-4-amine | 487 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)C | C15H13BrN2S
